US07511050B2
Step A: 7-bromo-6-(4-methoxybenzyl)-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
The mixture of 7-bromo-3-methyl-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one (200 mg, 0.59 mmol), 4-methoxyphenyl methylbromide (0.094 mL, 0.65 mmol), potassium carbonate (244 mg, 1.77 mmol) in DMF (10 ml) was stirred at room temperature for 2 hours. The reaction was quenched with water and the solid formed was filtered and dried over to yield the desired product (270 mg, 99.7%). LCMS calculated for C20H24BrN6O2: 459.1; found 460.1.

reactant | 7-bromo-3-methyl-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | 0.59 mmol, 200 mg | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)C)CCCCC | C12H15BrN6O
reactant | 4-methoxyphenyl methylbromide | 0.65 mmol, 0.094 mL | COC1=CC=C(C=C1)CBr | C8H9BrO
reactant | potassium carbonate | 1.77 mmol, 244 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-bromo-6-(4-methoxybenzyl)-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 270 mg, 99.7% | BrC1=NC=2N(C=3N(C(C2N1CC1=CC=C(C=C1)OC)=O)C(=NN3)C)CCCCC | C20H23BrN6O2
